US06080752
3,4-Dihydro-2-hydroxy-3-(2-propenyl)-naphthalenecarboxylic Acid, Methyl Ester
To a stirred solution of 3,4-dihydro-2-hydroxynaphthalene carboxylic acid, methyl ester (36.2 g, 177 mmol) in dry tetrahydrofuran (440 ml) at -30° C. under argon was added dropwise lithium diisopropylamide (195 ml, 2M solution, 390 mmol). Allyl bromide (24.3 ml, 284 mmol) was then added at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 1 h, then treated with hydrochloric acid (5M) to pH2-3. The resulting mixture was extracted with ethyl acetate (2×1000 ml) and the combined extracts were washed with brine (1000 ml), dried (Na2SO4) and evaporated in vacuo to give the title compound as a brown oil (46.1 g).

reactant | 3,4-dihydro-2-hydroxynaphthalene carboxylic acid, methyl ester | 177 mmol, 36.2 g | OC1=C(C2=CC=CC=C2CC1)C(=O)OC | C12H12O3
reactant | lithium diisopropylamide | 390 mmol, 2M, 195 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Allyl bromide | 284 mmol, 24.3 ml | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | tetrahydrofuran | 440 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-2-hydroxy-3-(2-propenyl)-naphthalenecarboxylic Acid, Methyl Ester | 46.1 g | OC1=C(C2=CC=CC=C2CC1CC=C)C(=O)OC | C15H16O3
